US06316637B1
4-Bromo-5-aminobenzimidazole.
To a solution of 5-aminobenzimidazole (0.3 g, 2.3 mmol) in 30 ml of AcOH was added bromine. (0.055 ml, 1.1 mmol) in a portion and resulting reaction mixture was stirred for 0.5 h at 25° C. Reaction mixture was concentrated in vacuo, yielding a dark brown solid which was subjected to silica gel column chromatography (NH3 saturated 10% MeOH/EtOAc) to yield 0.22 g (0.97 mmol, 42%) of the desired product.

reactant | 5-aminobenzimidazole | 2.3 mmol, 0.3 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | bromine | BrBr | Br2
reactant | NH3 | N | H3N
solvent | AcOH | 30 ml | CC(=O)O | C2H4O2
product | 4-Bromo-5-aminobenzimidazole | 0.97 mmol, 0.22 g, 42% | BrC1=C(C=CC=2N=CNC21)N | C7H6BrN3
